US04079064
When acrolein is condensed with 1,3-butanediol, the product obtained is 2-vinyl-4-methyl-1,3-dioxane (99 percent yield).

reactant | acrolein | C(=O)C=C | C3H4O
reactant | 1,3-butanediol | C(CC(C)O)O | C4H10O2
product | 2-vinyl-4-methyl-1,3-dioxane | 99 percent yield | C(=C)C1OCCC(O1)C | C7H12O2
